US06890920B2
(A) 2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-methylphenyl butyrate
A solution of 2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-methylphenol (1.0 g) in butyryl chloride (5 ml) is heated under reflux for 90 min. Ether is added, and the precipitate of 2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-methylphenyl butyrate hydrochloride is filtered off; mp 116-119° C. Anal Calcd for C26H37NO2.HCl: C, 72.28; H, 8.86; Cl, 8.21; N, 3.24. Found: C, 72.25; H, 8.71; Cl, 8.17; N, 3.25. [α]D (c=1, MeOH) +20°.

reactant | 2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-methylphenol | 1.0 g | C(C)(C)N(CC[C@H](C1=CC=CC=C1)C1=C(C=CC(=C1)C)O)C(C)C | C22H31NO
reactant | Ether | CCOCC | C4H10O
reactant | butyryl chloride | 5 ml | C(CCC)(=O)Cl | C4H7ClO
product | 2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-methylphenyl butyrate | C(CCC)(=O)OC1=C(C=C(C=C1)C)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C26H37NO2
